Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amiodarone
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, hypoxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ M with a fib on Coumadin, COPD by smoking history (40 pack 
years), systolic CHF (last EF ___, severe pulmonary 
hypertension, CKD (baseline Cr 1.3) admitted to ___ for 
persistent hypoxia on BiPAP, admitted to ___ for pulmonary 
hypertension workup. 

Admitted ___  for drug induced hepatic toxicity, thought 
to be ___ amiodarone. c/b acute hypoxemic respiratory failure, 
treated for HCAP and newly depressed EF to ___. ___ 
represented for SOB, O2 84% and afib with RVR. RHC/LHC done with 
LAD ___ stenosis, LCx, RCA with diffuse luminal 
irregularities, LVEDP 15 and severe pulm HTN (mPAP 32). CTA neg 
for PE. s/p 5 days of vanc/ceftaz completed ___ for HCAP. 
Diuresis with Cr bump to 1.5 after which diuretics held. For 
cardiac status was started on dobutamine for renal perfusion and 
continued on digoxin. For pulmonary hypertension was started on 
sildenafil 10 BID, and 60mg methylpred q6H and duoneb for 
possible COPD. 

Of note, Admission weight to ___ was 88.7 kg, discharge 
weight on transfer 84.5kg. On admission WBC 31.4. Hgb 11.9, plt 
160. Cr on admission 0.9 -> 1.5. VBG ___ blood 
cultures and ___ sputum no growth. procalcitonin 0.22.

On arrival to the MICU he reported shortness of breath above his 
baseline. at baseline can walk half a mile without stopping to 
catch breath and can walk up one flight of stairs. Remembers 
being that way his whole life. Recently has had more shortness 
of breath. Also with cough which is new from baseline. No 
fevers, chills, nausea, vomiting, diarrhea, leg swelling. 
 
Past Medical History:
Afib on Coumadin
COPD by smoking history (40 pack years)
systolic CHF (last EF ___
severe pulmonary hypertension
CKD (baseline Cr 1.3)
Hx of kidney stones
urethral stricture 
 
Family History:
Unable to obtain

 
Physical Exam:
Admission: 
 VITALS:  afebrile, HR 90, BP 106/56, RR 21, SpO2 93% on High 
flow NC 12L 
 GENERAL: Alert, oriented, no acute distress  
 HEENT: PERRL, Sclera anicteric, MMM, oropharynx clear  
 NECK: supple, JVP not elevated 
 LUNGS: Bibasilar crackles, mild wheezing
 CV: irregular rhythm, normal S1 S2, no murmurs, rubs, gallops  
 ABD: soft, ___, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 NEURO: AAOx3. moves all extremities, and CN grossly intact   
 ACCESS: PIVs

Discharge:
VITALS:  97.7 109 / 68 63 18 93% RA
 GENERAL: Alert, oriented, no acute distress  
 HEENT: PERRL, Sclera anicteric, MMM, oropharynx clear  
 NECK: supple, JVP not elevated 
 LUNGS: Bibasilar crackles, no wheezing
 CV: irregular rhythm, normal S1 S2, no murmurs, rubs, gallops  
 ABD: soft, ___, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 NEURO: AAOx3. moves all extremities, and CN grossly intact   

 
Pertinent Results:
Admission labs:

___ 01:28AM BLOOD ___ 
___ Plt ___
___ 01:28AM BLOOD ___ ___
___ 01:28AM BLOOD ___ 
___
___ 05:15AM BLOOD ___ LD(LDH)-146 ___ 
___
___ 01:28AM BLOOD ___
___ 01:59PM BLOOD ___
___ 01:28AM BLOOD ___
___ 05:15AM BLOOD ___ 
___
___ 01:59PM BLOOD ___
___ 09:25AM BLOOD ___ 
___ Base ___
___ 09:25AM BLOOD ___

Interval labs: 

___ 08:27AM URINE ___ F
___ 01:28AM BLOOD ___
___ 05:15AM BLOOD ___ F ___ 
___
___ 05:15AM BLOOD HIV ___
___ 01:28AM BLOOD ___ 

Discharge labs: 

___ 05:00AM BLOOD ___ 
___ Plt ___
___ 05:00AM BLOOD ___ 
___
___ 05:00AM BLOOD ___

Micro: 

___: Respiratory culture: NGTD

Imaging:

TTE:
The left atrium is moderately dilated. No left atrial 
mass/thrombus seen (best excluded by transesophageal 
echocardiography). The right atrium is moderately dilated. No 
atrial septal defect is seen by 2D or color Doppler or saline at 
rest. Left ventricular wall thicknesses are normal. The left 
ventricular cavity is moderately dilated with mild global 
hypokinesis (LVEF = 46%). Systolic function of apical segments 
is relatively preserved. Right ventricular chamber size is 
normal with borderline normal free wall function. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

 IMPRESSION: Left ventricular cavity dilation with mild global 
hypokinesis in a pattern suggestive of a ___ 
cardiomyopathy. Mild mitral regurgitation. Borderline pulmonary 
artery systolic hypertension. No resting ___ 
intracardiac shunt identified. 

 CLINICAL IMPLICATIONS: 
 Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

CT Chest 
Findings suggest pneumonia (has the appearance of resolving 
pneumonia) most marked in the lung bases.  Due to this 
distribution aspiration pneumonia should be excluded. 
  
Hyperdense appearance of the liver: Is this patient on 
amiodarone? If this is the case, amiodarone lung toxicity should 
be considered in the differential diagnosis of the lung 
abnormalities even the morphology is atypical. 
  
Trace centrilobular emphysematous changes in the upper lobes 
(less than 0.5% of the lung volume) and vague centrilobular 
___ opacities most likely representing respiratory 
bronchiolitis.  Mild, but diffuse bronchial wall thickening may 
be in keeping with chronic bronchitis. 
Correlation with lung function tests to evaluate for air for 
obstruction 
advised. 
  
Dilated pulmonary artery and pulmonary hypertension should be 
excluded. 
  
Striated appearance of the right kidney and pyelonephritis/renal 
infarct 
should be excluded colon correlation with renal ultrasound.  
There is contrast present in the renal collecting system (as 
well as in the gallbladder) suggesting a prior contrasted study, 
but I do not find a contrast study on our system. ?  Outside 
study. 
  
Hyperdense appearance of the liver: Is this patient on 
amiodarone.  If this is the case, amiodarone lung toxicity 
should be considered in the differential diagnosis of the lung 
abnormalities even the morphology is atypical. 

CXR
No previous images.  The cardiac silhouette is at the upper 
limits of normal in size or mildly enlarged and there is 
indistinctness of engorged pulmonary vessels consistent with 
elevated pulmonary venous pressure. Prominence of central 
pulmonary vessels is consistent with the clinical diagnosis of 
pulmonary arterial hypertension. 
There is more focal opacification at the right base which, in 
the appropriate clinical setting would be worrisome for 
aspiration/pneumonia. 
 
Brief Hospital Course:
___ M with Afib on Coumadin, ?COPD (smoking history 40 pack 
years; and environmental exposure), systolic CHF (last EF 
___, ?severe pulmonary hypertension, CKD (baseline Cr 1.3) 
admitted to ___ CCU for persistent hypoxia requiring BiPAP, 
who was transferred to ___ for workup of persistent hypoxia, 
thought to be secondary to COPD exacerbation with underlying 
volume overload, improved with COPD exacerbation treatment and 
IV diuresis.

#Hypoxia, acute respiratory failure: Prior to transfer, at 
___, cardiac cath with elevated mPAP to 32. However, this 
in the setting of relatively new diagnosis of systolic CHF with 
EF 30% and pt with volume overload. He was treated for HCAP and 
diuresed without improved of his oxygen requirement and was 
transferred to ___ for pulmonary hypertension evaluation. 
However, on admission to ___ it was felt that his resting O2 
requirement not explained fully by pHTN. At BI started on 
prednisone 60mg for COPD exacerbation, given azithromycin course 
and gentle diuresis. He slowly improved with O2 requirement down 
from high flow NC to 5L on room air. Of note, he had a repeat 
TTE which showed improvement in LVEF to 45% after diuresis. He 
had a CT chest which showed probable resolving pneumonia, trace 
centrilobular emphysema and hyperdense appearance of liver 
thought consistent with known prior amiodarone toxicity. It was 
overall thought that his hypoxia was related to interstitial 
edema from decompensated CHF and underlying emphysema. Patient 
was diuresed with IV Lasix and continued a Prednisone taper, and 
he improved from high flow O2 to RA. 
  
#?Pulmonary HTN: Sildenafil trialed at OSH, though on review the 
cardiac cath which showed elevated pulmonary pressures was 
performed when patient was significant volume overloaded. As it 
was felt that pulm hypertension unlikely playing a significant 
role in this patient's hypoxic episode, sildenafil was stopped. 
HIV and ___ were negative. Patient should have pulmonary follow 
up and further work up now that he is euvolemic.

#?COPD: Patient does not carry this diagnosis, however he never 
had PCP follow up until recently. He smoked heavily and worked 
in ___ for many decades where he was exposed to dust 
and other toxins. Patient given prednisone 60mg x5d, nebs and 
azithromycin x5d, and will complete prednisone taper at home. 
Should have further work up with PFTs as an outpatient.

#Acute on chronic systolic CHF: EF ___ which improved to 45% 
on repeat TTE. He was significantly diuresed at ___ and at 
___. Metoprolol held initially in setting of decompensated HF, 
and then restarted Metoprolol and Lisinopril. Patient was also 
started on aspirin 81 mg daily.

#Afib: Chads2vasc score of 2. He was continued on digoxin in 
house, as well as warfarin. Metoprolol continued at discharge.
 
___ on CKD: Cr 1.8, baseline 1.3. This improved with diuresis, 
and so likely cardiorenal. Back to baseline of ___ on discharge.

#Urethral stricture: Pt has required dilation by urology in past 
for foley placement. Foley was placed on ___ by urology at 
___ for retention. Foley was kept in place from ___ for 
further decompression. Per Urology, ok to discontinue and 
patient had voiding trial prior to discharge. An outpatient 
follow up appointment was made.    

 # Communication: HCP: Wife ___  
 # Code: Full, confirmed ___

TRANSITIONAL ISSUES
======================
[] STARTED Torsemide 20mg daily.
[] Weigh daily - discharge weight: 188.71 lb 85.6 kg 
[] Started Lisinopril 2.5mg daily (had recently been prescribed, 
but never started this) - uptitrate as tolerated
[] Continued Metoprolol 25mg XL daily - uptitrate as tolerated
[] Started Aspirin 81mg daily.
[] Patient should f/u with Pulmonology and obtain PFTs and 
decide best inhaler for pt if COPD is diagnosed.
[] Patient should f/u with Cardiology - appointment made.
[] Patient should f/u w/ PCP - appointment made.
[] LABS: Should have REPEAT Chem 10 to evaluate for Cr and also 
phosphorus (was slightly elevated). Fax to Dr. ___: 
___
[] LABS: Should have INR checked and result should be faxed to 
PCP, ___ Fax: ___
[] Patient should adhere to renal diet. 
[] Patient should f/u with Urology regarding urethral stricture.
[] Patient should continue Prednisone taper: 30mg ___, 20mg 
___, 10mg on ___.
[] Patient started on Folic acid, MV and thiamine given he 
expressed history of heavy alcohol use. Unclear whether he is 
actively drinking alcohol - his wife denies this, did not 
withdraw during this admission. Will benefit from extensive 
counseling and social work if EtOH.
[] Should follow Renal and Cardiac diet
[] ___ with outpatient renal ultrasound for findings noted 
on CT chest with findings noted for ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Digoxin 0.125 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Warfarin 3 mg PO DAILY16 
4. Tamsulosin 0.4 mg PO QHS 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multiple]  1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
4.  PredniSONE 20 mg PO ONCE Duration: 1 Dose 
RX *prednisone 10 mg 1 tablet(s) by mouth daily as directed (see 
below) Disp #*6 Tablet Refills:*0 
5.  PredniSONE 10 mg PO ONCE Duration: 1 Dose  
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
7.  Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
8.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
9.  Warfarin 3.5 mg PO DAILY16 
RX *warfarin [Coumadin] 1 mg 3.5 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
10.  Digoxin 0.125 mg PO DAILY 
RX *digoxin [Digox] 125 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
11.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
12.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
13.Outpatient Lab Work
___
INR, Na, Cr, HCO3, BUN, K, Cl, Phosphorus
I48.1 - afib
I12.9 - CKD
Fax to: Dr. ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
COPD exacerbation
Acute on chronic congestive heart failure

SECONDARY DIAGNOSIS
======================
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital for shortness of breath and were 
treated with medications to reduce the fluid accumulated in your 
lungs, and also medications to reduce the inflammation of your 
lungs. You will need close follow up with your primary care 
doctor and cardiologist after discharge to optimize your care as 
much as possible and prevent readmission to the hospital.

Please note there are several new medications, please take these 
as directed. We have made follow up appointments for you - 
PLEASE do not miss these. 

We wish you the very best,

Your ___ Team
 
Followup Instructions:
___